US08536210B2
Step 1: 5-(2-Bromophenyl)-1,3-benzodioxole-4-carbaldehyde
The process described in Method B was followed. 5-Bromo-1,3-benzodioxole-4-carbaldehyde (1.15 g, 5.00 mmol) and 2-bromophenylboronic acid (1.10 g, 5.50 mmol) were used to obtain the title compound. The crude product was purified by column chromatography with a mixture of hexane:ethyl acetate (9:1) as the eluent.

reactant | 5-Bromo-1,3-benzodioxole-4-carbaldehyde | 5.00 mmol, 1.15 g | BrC1=C(C2=C(OCO2)C=C1)C=O | C8H5BrO3
reactant | 2-bromophenylboronic acid | 5.50 mmol, 1.10 g | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
product | 5-(2-Bromophenyl)-1,3-benzodioxole-4-carbaldehyde | BrC1=C(C=CC=C1)C1=C(C2=C(OCO2)C=C1)C=O | C14H9BrO3
